US05919779
A mixture of 3-bromo-4-(2-ethylaminopyridin-3-yl)thiophene [synthesis described above] (0.757 g), 2, 6-dichloro-3-tributylstannylpyridine (1.331 g), triphenylarsine (0.261 g), and trisdibenzylideneacetone dipalladium (0.092 g) in N-methylpyrrolidinone (3 mL) was heated at 100° C. for 48 hours. Tetrabutylammonium fluoride (1M in tetrahydrofuran, 3 mL) was added . After 2 hours, the mixture was diluted with ethyl acetate, washed with water, dried, filtered and evaporated. The residue was fractionated by chromatography to give 3-(2,6-dichloropyridin-3-yl)-4-(2-ethylaminopyridin-3-yl)thiophene (0.059 g) which was used directly in the next step. To a solution of 3-(2,6-dichloropyridin-3-yl)-4-(2-ethylaminopyridin-3-yl)thiophene (0.059 g) in tetrahydrofuran (2 mL) was added sodium hexamethyldisilazide (1 molar in tetrahydrofuran, 1 mL). After 20 minutes, the reaction was quenched with methanol, diluted with ethyl acetate, washed with water, dried, filtered and evaporated. The residue was fractionated by chromatography to give 6-chloro-8-ethyl-thienyl[3',4':6,5]dipyrido[2,3-b:3',2'-f]azepine (0.024 g) mp 139-141° C.

reactant | 3-(2,6-dichloropyridin-3-yl)-4-(2-ethylaminopyridin-3-yl)thiophene | 0.059 g | ClC1=NC(=CC=C1C1=CSC=C1C=1C(=NC=CC1)NCC)Cl | C16H13Cl2N3S
reactant | sodium hexamethyldisilazide | 1 molar, 1 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 6-chloro-8-ethyl-thienyl[3',4':6,5]dipyrido[2,3-b:3',2'-f]azepine | 0.024 g | CCN1C2=C(C=CC=N2)C3=CSC=C3C4=C1N=C(C=C4)Cl | C16H12ClN3S
